US07307075B2
7-Fluoro-1H-quinolin-2-one, (97KK34)
DDQ (0.42 g, 1.9 mmol) was added to a solution of 7-fluoro-3,4-dihydro-1H-quinolin-2-one (0.20 g 1.2 mmol) in dioxane (25 mL) and the resulting mixture was refluxed under an Argon atmosphere for 16 h. The mixture was concentrated under reduced pressure and sat aqueous Na2CO3 solution (25 mL) was added, and this was extracted with an organic mixture (MeOH/CH2Cl2 1:10, 3×50 mL). The combined organic phase was dried (Na2SO4), filtered, concentrated under reduced pressure and purified by combi flash LC (SiO2; CH2Cl2/MeOH 10:1) to give the title compound (0.037 g, 18%). 1H NMR (DMSO-D6) δ 11.8 (s, 1H), 7.88 (d, J=9.6 Hz, 1H), 7.74-7.65 (m, 1H), 7.05-6.95 (m, 2H), 6.43, (d, J=9.6 Hz); 13C NMR (CDMSO-D6) δ 163.0 (d, J=247 Hz), 161.9, 140.4 (d, J=13 Hz), 130.4 (d, J=11 Hz), 120.9, 116.1, 109.8 (d, J=23), 101.0 (d, J=25 Hz).

reactant | DDQ | 1.9 mmol, 0.42 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | 7-fluoro-3,4-dihydro-1H-quinolin-2-one | 1.2 mmol, 0.20 g | FC1=CC=C2CCC(NC2=C1)=O | C9H8FNO
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 7-Fluoro-1H-quinolin-2-one | 0.037 g, 18% | FC1=CC=C2C=CC(NC2=C1)=O | C9H6FNO
